US08703758B2
C) 7-fluoro-6-methoxy-1,3-benzoxazole-2-thiol
To a solution of 6-amino-2-fluoro-3-methoxyphenol (220 mg) in ethanol (10 mL) was added potassium ethylxanthate (450 mg), and the mixture was stirred at 80° C. for 64 hr. After allowing to cool to room temperature, the mixture was concentrated under reduced pressure. The obtained residue was dissolved in water, and the solution was acidified with 1 M hydrochloric acid. After stirring for 10 min, the mixture was extracted with ethyl acetate, and the obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (147 mg).

reactant | 6-amino-2-fluoro-3-methoxyphenol | 220 mg | NC1=CC=C(C(=C1O)F)OC | C7H8FNO2
reactant | potassium ethylxanthate | 450 mg | C(C)OC(=S)[S-].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 7-fluoro-6-methoxy-1,3-benzoxazole-2-thiol | 147 mg | FC1=C(C=CC=2N=C(OC21)S)OC | C8H6FNO2S
